************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: project_circuit
* View Name:     schematic
* Netlisted on:  Nov 25 21:28:32 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA


************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 net7 in_B vss vss nmos W=nw L=45n
MM0 out in_A net7 vss nmos W=nw L=45n
MM3 out in_B vdd vdd pmos W=pw L=45n
MM2 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 out in_B vss vss nmos W=nw L=45n
MM0 out in_A vss vss nmos W=nw L=45n
MM3 out in_A net4 vdd pmos W=pw L=45n
MM2 net4 in_B vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    and16
* View Name:    schematic
************************************************************************

.SUBCKT and16 in1 in2 in3 in4 in5 in6 in7 in8 in9 in10 in11 in12 in13 in14 
+ in15 in16 out vdd vss
*.PININFO in1:I in2:I in3:I in4:I in5:I in6:I in7:I in8:I in9:I in10:I in11:I 
*.PININFO in12:I in13:I in14:I in15:I in16:I out:O vdd:B vss:B
XI6 in13 in14 net030 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI5 in11 in12 net029 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI7 in15 in16 net031 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI4 in9 in10 net032 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI13 net014 net013 net022 vdd vss / nand2 pw=7.829999958630651e-06 
+ nw=7.839999852876645e-06
XI3 in7 in8 net3 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI2 in5 in6 net8 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI1 in3 in4 net13 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI0 in1 in2 net16 vdd vss / nand2 pw=2.2e-06 nw=2.2e-06
XI12 net016 net015 net017 vdd vss / nand2 pw=7.829999958630651e-06 
+ nw=7.839999852876645e-06
XI8 net16 net13 net016 vdd vss / nor2 pw=7.779999577905983e-06 
+ nw=1.939999947353499e-06
XI14 net017 net022 out vdd vss / nor2 pw=2.786000004562084e-05 
+ nw=6.960000064282212e-06
XI11 net030 net031 net013 vdd vss / nor2 pw=7.779999577905983e-06 
+ nw=1.939999947353499e-06
XI10 net032 net029 net014 vdd vss / nor2 pw=7.779999577905983e-06 
+ nw=1.939999947353499e-06
XI9 net8 net3 net015 vdd vss / nor2 pw=7.779999577905983e-06 
+ nw=1.939999947353499e-06
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand3
* View Name:    schematic
************************************************************************

.SUBCKT nand3 in_A in_B in_C out vdd vss
*.PININFO in_A:I in_B:I in_C:I out:O vdd:B vss:B
MM2 net9 in_C vss vss nmos W=nw L=45n
MM1 net8 in_B net9 vss nmos W=nw L=45n
MM0 out in_A net8 vss nmos W=nw L=45n
MM5 out in_C vdd vdd pmos W=pw L=45n
MM4 out in_B vdd vdd pmos W=pw L=45n
MM3 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand4
* View Name:    schematic
************************************************************************

.SUBCKT nand4 in_A in_B in_C in_D out vdd vss
*.PININFO in_A:I in_B:I in_C:I in_D:I out:O vdd:B vss:B
MM7 net56 in_D vss vss nmos W=nw L=45n
MM2 net54 in_C net56 vss nmos W=nw L=45n
MM1 net55 in_B net54 vss nmos W=nw L=45n
MM0 out in_A net55 vss nmos W=nw L=45n
MM6 out in_D vdd vdd pmos W=pw L=45n
MM5 out in_C vdd vdd pmos W=pw L=45n
MM4 out in_B vdd vdd pmos W=pw L=45n
MM3 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    mux16to1
* View Name:    schematic
************************************************************************

.SUBCKT mux16to1 in1 in2 in3 in4 in5 in6 in7 in8 in9 in10 in11 in12 in13 in14 
+ in15 in16 out s0 s1 s2 s3 vdd vss
*.PININFO in1:I in2:I in3:I in4:I in5:I in6:I in7:I in8:I in9:I in10:I in11:I 
*.PININFO in12:I in13:I in14:I in15:I in16:I s0:I s1:I s2:I s3:I out:O vdd:B 
*.PININFO vss:B
XI24 temp1 ~s0 ~s1 net90 vdd vss / nand3 pw=1.962e-05 nw=2.944e-05
XI22 temp4 s0 s1 net93 vdd vss / nand3 pw=1.961999987543095e-05 
+ nw=2.943999970739242e-05
XI21 temp3 s0 ~s1 net92 vdd vss / nand3 pw=1.961999987543095e-05 
+ nw=2.943999970739242e-05
XI20 temp2 ~s0 s1 net91 vdd vss / nand3 pw=1.962e-05 nw=2.944e-05
XI15 in9 ~s2 ~s3 net104 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI14 in13 ~s2 ~s3 net97 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI13 in16 s2 s3 net100 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI12 in15 s2 ~s3 net99 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI11 in14 ~s2 s3 net98 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI10 in12 s2 s3 net107 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI9 in11 s2 ~s3 net106 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI8 in10 ~s2 s3 net83 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI7 in5 ~s2 ~s3 net6 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI6 in8 s2 s3 net5 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI5 in7 s2 ~s3 net1 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI4 in6 ~s2 s3 net2 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI3 in4 s2 s3 net7 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI2 in3 s2 ~s3 net3 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI1 in2 ~s2 s3 net4 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI0 in1 ~s2 ~s3 net8 vdd vss / nand3 pw=8.230000275943894e-06 
+ nw=1.233999955729814e-05
XI23 net90 net91 net92 net93 out vdd vss / nand4 pw=2.737000068009365e-05 
+ nw=5.474000136018731e-05
XI19 net97 net98 net99 net100 temp4 vdd vss / nand4 pw=1.120999968406977e-05 
+ nw=2.293999932589941e-05
XI18 net104 net83 net106 net107 temp3 vdd vss / nand4 pw=1.14799995571957e-05 
+ nw=2.293999932589941e-05
XI17 net6 net2 net1 net5 temp2 vdd vss / nand4 pw=1.14799995571957e-05 
+ nw=2.293999932589941e-05
XI16 net8 net4 net3 net7 temp1 vdd vss / nand4 pw=1.14799995571957e-05 
+ nw=2.293999932589941e-05
XI32 s2 ~s2 vdd vss / inverter pw=2.2e-06 nw=1.1e-06
XI31 s3 ~s3 vdd vss / inverter pw=2.2e-06 nw=1.1e-06
XI27 s1 ~s1 vdd vss / inverter pw=2.2e-06 nw=1.1e-06
XI28 s0 ~s0 vdd vss / inverter pw=2.2e-06 nw=1.1e-06
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    project_circuit
* View Name:    schematic
************************************************************************

*.PININFO a0:I a1:I a2:I a3:I a4:I a5:I a6:I a7:I a8:I a9:I a10:I a11:I a12:I 
*.PININFO a13:I a14:I a15:I c0:I c1:I c2:I c3:I c4:I c5:I c6:I c7:I c8:I c9:I 
*.PININFO c10:I c11:I c12:I c13:I c14:I c15:I s0:I s1:I s2:I s3:I out:O vdd:B 
*.PININFO vss:B
XI0 c0 c1 c2 c3 c4 c5 c6 c7 c8 c9 c10 c11 c12 c13 c14 c15 cout vdd vss / and16
XI16 a13 cout net44 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI15 a12 cout net43 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI14 a9 cout net45 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI13 a10 cout net47 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI12 a11 cout net48 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI11 a8 cout net46 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI10 a14 cout net42 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI9 a15 cout net41 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI8 a5 cout net50 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI5 a4 cout net52 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI1 a1 cout net55 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI4 a2 cout net54 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI3 a3 cout net53 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI2 a0 cout net56 vdd vss / nand2 pw=1.750000024003384e-06 
+ nw=1.740000016070553e-06
XI6 a6 cout net51 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI7 a7 cout net49 vdd vss / nand2 pw=1.75e-06 nw=1.740000016070553e-06
XI17 y0 y1 y2 y3 y4 y5 y6 y7 y8 y9 y10 y11 y12 y13 y14 y15 out s0 s1 s2 s3 vdd 
+ vss / mux16to1
CC0 out vss 100f $[CP]
XI35 net41 y15 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI34 net42 y14 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI33 net44 y13 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI32 net43 y12 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI31 net46 y8 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI30 net45 y9 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI29 net47 y10 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI28 net48 y11 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI27 net49 y7 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI26 net50 y5 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI25 net51 y6 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI24 net52 y4 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI22 net54 y2 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI23 net53 y3 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI20 net55 y1 vdd vss / inverter pw=2.54e-06 nw=5.07e-06
XI19 net56 y0 vdd vss / inverter pw=2.54e-06 nw=5.07e-06

