************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: repeater2_1st
* View Name:     schematic
* Netlisted on:  Nov 28 12:14:48 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    repeater2_1st
* View Name:    schematic
************************************************************************

*.PININFO in:I out:O vdd:B vss:B
XI6 net40 out vdd vss / inverter pw=6.96e-06 nw=4.49e-06
XI7 net38 net40 vdd vss / inverter pw=6.96e-06 nw=4.49e-06
XI5 net41 net37 vdd vss / inverter pw=6.96e-06 nw=4.49e-06
XI4 net36 net41 vdd vss / inverter pw=6.96e-06 nw=4.49e-06
XI1 net42 net35 vdd vss / inverter pw=6.96e-06 nw=4.49e-06
XI0 in net42 vdd vss / inverter pw=6.96e-06 nw=4.49e-06
CC8 out vss 27.11f $[CP]
CC5 net38 vss 10f $[CP]
CC4 net37 vss 10f $[CP]
CC3 net36 vss 10f $[CP]
CC2 net35 vss 10f $[CP]
RR2 net37 net38 10K $[RP]
RR1 net35 net36 10K $[RP]


