************************************************************************
* auCdl Netlist:
* 
* Library Name:  Test1
* Top Cell Name: FO4_delay
* View Name:     schematic
* Netlisted on:  Nov 27 17:45:14 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: Test1
* Cell Name:    FO4_delay
* View Name:    schematic
************************************************************************

*.PININFO in:I out1:O out2:O out3:O out4:O vdd:B vss:B
XI6 temp3 out1 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI5 temp3 out4 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI4 temp3 out2 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI3 temp3 out3 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI2 temp2 temp3 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI1 temp1 temp2 vdd vss / inverter pw=1.86e-06 nw=1.2e-06
XI0 in temp1 vdd vss / inverter pw=1.86e-06 nw=1.2e-06


