************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: mobility_check
* View Name:     schematic
* Netlisted on:  Nov 26 16:55:00 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    mobility_check
* View Name:    schematic
************************************************************************

*.PININFO in:I out:O vdd:B vss:B
XI3 temp3 out vdd vss / inverter nw=1.2u pw=1.86u
XI2 temp2 temp3 vdd vss / inverter nw=1.2u pw=1.86u
XI1 temp temp2 vdd vss / inverter nw=1.2u pw=1.86u
XI0 in temp vdd vss / inverter nw=1.2u pw=1.86u

